US08071595B2
To a stirred solution of 2-(4-(quinolin-2-ylmethoxy)phenyl)acetic acid (5.0 g, 0.017 mol) in DCM (50 mL) were added DIPEA (6.6 g, 0.05 mol), HOBT (3.4 g, 0.02 mol) and EDC (4.9 g, 0.02 mol) at RT under an inert atmosphere. After 10 minutes, 2-amino-2-methylpropanoate (3.9 g, 0.02 mol) was added to the reaction mixture and stirring was continued for 4 h. The reaction mixture was diluted with water and extracted with DCM (2×200 mL). The combined organic layers were washed with water and brine, and then dried over Na2SO4. Evaporation of organic solvents in vacuo afforded methyl 2-methyl-2-(2-(4-(quinolin-2-ylmethoxy)phenyl)acetamido)propanoate (5.0 g, 74%) as a white solid.

reactant | 2-(4-(quinolin-2-ylmethoxy)phenyl)acetic acid | 0.017 mol, 5.0 g | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)CC(=O)O | C18H15NO3
reactant | DIPEA | 0.05 mol, 6.6 g | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBT | 0.02 mol, 3.4 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.02 mol, 4.9 g
reactant | 2-amino-2-methylpropanoate | 0.02 mol, 3.9 g | NC(C(=O)[O-])(C)C
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | methyl 2-methyl-2-(2-(4-(quinolin-2-ylmethoxy)phenyl)acetamido)propanoate | 5.0 g, 74% | CC(C(=O)OC)(C)NC(CC1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)=O | C23H24N2O4
